US06248757B1
4.1. Ethyl 8-amino-2,3-dihydro-1,4-benzodioxine-5-carboxylate
23.5 g (0.198 mol) of thionyl chloride are introduced slowly into a 2 1 three-necked round-bottomed flask containing 772 ml of ethanol cooled to −40° C., with stirring, the stirring is continued at this temperature for 1 h, 38.6 g (0.198 mol) of 8-amino-2,3-dihydro-1,4-benzodioxine-5-carboxylic acid dissolved in 100 ml of ethanol are added slowly, over 15 min, and the mixture is allowed to warm to room temperature overnight.

reactant | thionyl chloride | 0.198 mol, 23.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | 8-amino-2,3-dihydro-1,4-benzodioxine-5-carboxylic acid | 0.198 mol, 38.6 g | NC1=CC=C(C2=C1OCCO2)C(=O)O | C9H9NO4
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | ethanol | 772 ml | C(C)O | C2H6O
product | Ethyl 8-amino-2,3-dihydro-1,4-benzodioxine-5-carboxylate | NC1=CC=C(C2=C1OCCO2)C(=O)OCC | C11H13NO4
